US06475957B1
b) 3-Bromo-2-methoxy-6-methylsulfanylbenzaldehyde
Bromine (28.8 g, 0.18 mol) (dissolved in dioxane (500 ml)) was added dropwise to a solution of 2-methoxy-6-methylsulfanylbenzaldehyde (22 g, 0.12 mol) in dioxane (500 ml), and the mixture was stirred at 50° C. for 6 h. The mixture was then concentrated, the residue was taken up in CH2Cl2, and the mixture was washed with H2O , dried over MgSO4 and concentrated. The solid was recrystallized from diisopropyl ether.

reactant | Bromine | 0.18 mol, 500 ml, 28.8 g | BrBr | Br2
reactant | 2-methoxy-6-methylsulfanylbenzaldehyde | 0.12 mol, 22 g | COC1=C(C=O)C(=CC=C1)SC | C9H10O2S
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 3-Bromo-2-methoxy-6-methylsulfanylbenzaldehyde | BrC=1C(=C(C=O)C(=CC1)SC)OC | C9H9BrO2S
